US04110455
2-benzoyl-3-nitro-6-hydroxypyridine
50 grams of 2-(α-cyanobenzyl)-3-nitro-6-chloropyridine were dissolved in 200 ml. of acetone, 70 ml. of 30% aqueous hydrogen peroxide added and then with stirring there was gradually dropped a solution of 39 grams of KOH in 50 ml. of water with stirring. The solution heated by itself to 35° C. After 40 minutes there was no blue coloration upon dropwise adding further potassium hydroxide solution. The yellow-red solution was diluted with water and acidified with hydrochloric acid. The 2-benzoyl-3-nitro-6-hydroxypyridine crystallized out and was filtered off with suction after an hour and dried.

reactant | 2-(α-cyanobenzyl)-3-nitro-6-chloropyridine | 50 grams | C(#N)C(C1=CC=CC=C1)C1=NC(=CC=C1[N+](=O)[O-])Cl | C13H8ClN3O2
reactant | hydrogen peroxide | OO | H2O2
reactant | KOH | 39 grams | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-benzoyl-3-nitro-6-hydroxypyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])O | C12H8N2O4
